US08058441B2
(c). 1-Acetyl-6-ethyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Friedel-Crafts alkylation of benzene (10 ml) with 1-acetyl-6-ethyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (410 mg) in the presence of AlCl3 (710 mg) was performed according to the method described in example 3.

reactant | 1-acetyl-6-ethyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 410 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)CC)C)(C)C | C16H23NO
reactant | AlCl3 | 710 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1-Acetyl-6-ethyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)CC)(C)C1=CC=CC=C1)(C)C | C22H27NO
